US03992189
A mixture of 8.2 parts of 2-acetylbenzoic acid, 7.27 parts of 4-chloro-2-fluoroaniline and 0.01 part of p-toluene-sulfonic acid was heated in an oil bath with occasional stirring at 150°-170° for 2 hours. The melt was poured into 100 parts of chloroform and washed successively with 50 parts of 10% aqueous hydrochloric acid solution, 50 parts of 10% aqueous sodium carbonate solution and 100 parts of a saturated aqueous sodium chloride solution. After drying the organic phase with anhydrous sodium sulfate, the solvent was evaporated at 300 mm. Hg at 50° C and the residue was crystallized from 100 parts of methanol to yield 8 parts of 2-(4-chloro-2-fluorophenyl)-3-methylene-1H-isoindol-1-one melting 86°-87°.

reactant | 2-acetylbenzoic acid | C(C)(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O3
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chloro-2-fluorophenyl)-3-methylene-1H-isoindol-1-one | ClC1=CC(=C(C=C1)N1C(C2=CC=CC=C2C1=C)=O)F | C15H9ClFNO
